US07795249B2
To a solution of 3-(5-{[5-(2-hydroxyphenyl)-3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-1-yl]carbonyl}-2-thienyl)benzonitrile in 7M mixture of ammonia in MeOH was added Raney nickel (3 mL). The reaction mixture was allowed to stir at rt under an atmosphere of hydrogen for 2 days. The resulting solution was filtered over a pad of celite and the filtrate was concentrated. The crude product was purified via HPLC to give 2-[1-({5-[3-(aminomethyl)phenyl]-2-thienyl}carbonyl)-3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-5-yl]phenol (I-2) (0.073 g, 0.138 mmol) as a white solid. LCMS: (FA) ES+ 455.4, ES-453.4. 1H NMR (400 MHz, d6-DMSO) δ: 9.05-9.08 (m, 1H), 8.66-8.70 (m, 1H), 8.35 (s, 1H), 8.26-8.31 (m, 1H), 8.05 (d, 1H), 7.78-7.82 (m, 1H), 7.64-7.68 (m, 1H), 7.53-7.59 (m, 2H), 7.36-7.47 (m, 2H), 7.08 (t, 1H), 6.92-6.97 (m, 1H), 6.81-6.86 (m, 1H), 6.72 (t, 1H), 5.85 (dd, 1H), 3.89-3.95 (m, 1H), 3.88 (s, 2H), and 3.16-3.24 (m, 1H).

reactant | 3-(5-{[5-(2-hydroxyphenyl)-3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-1-yl]carbonyl}-2-thienyl)benzonitrile | OC1=C(C=CC=C1)C1CC(=NN1C(=O)C1=CC=C(S1)C=1C=C(C#N)C=CC1)C=1C=NC=CC1 | C26H18N4O2S
reactant | ammonia | N | H3N
solvent | MeOH | CO | CH4O
catalyst | Raney nickel | 3 mL | [Ni] | Ni
product | 2-[1-({5-[3-(aminomethyl)phenyl]-2-thienyl}carbonyl)-3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-5-yl]phenol | 0.138 mmol, 0.073 g | NCC=1C=C(C=CC1)C1=CC=C(S1)C(=O)N1N=C(CC1C1=C(C=CC=C1)O)C=1C=NC=CC1 | C26H22N4O2S
